US04952722
Diethyl malonate (17.5 g; 110 mmole) was added to a solution of sodium metal (1.91 g; 83 mmole) in anhydrous absolute ethanol (50 ml) and the mixture was heated to reflux temperature. A mixture of 1-(5-indanyl)but-1-en-3-one (19.25 g; 103 mmole) in anhydrous absolute ethanol (50 ml) was added over a period of two minutes and the mixture was heated under reflux for a period of 2 hours. An aqueous solution of sodium hydroxide (30% solution, 50 ml) was added and the mixture was heated under reflux for a further 11/2 hours. The solution was poured into water (200 ml) and the aqueous mixture was extracted twice with ethyl acetate (2×100 ml). The aqueous phase was acidified with concentrated hydrochloric acid and warmed gently until the evolution of carbon dioxide ceased. The aqueous mixture was extracted with ethyl acetate, dried over anhydrous sodium sulphate, and the solvent was removed by evaporation under reduced pressure using a rotary evaporator. The product, 3-hydroxy-5-(5-indanyl)cyclohex-2-en-1-one, was obtained as a white solid (18.70 g; 79.6%), mp 198° C.

reactant | Diethyl malonate | 110 mmole, 17.5 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium | 83 mmole, 1.91 g | [Na] | Na
reactant | 1-(5-indanyl)but-1-en-3-one | 103 mmole, 19.25 g | C1CCC2=CC(=CC=C12)C=CC(C)=O | C13H14O
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 3-hydroxy-5-(5-indanyl)cyclohex-2-en-1-one | OC1=CC(CC(C1)C=1C=C2CCCC2=CC1)=O | C15H16O2
